US05925667
1-ethyl-2-(4-neryloxybenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 4-neryloxybenzoic acid (1.64 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (0.84ml), thereby yielding 0.69 g (30%) of the aimed compound.

reactant | 4-neryloxybenzoic acid | 1.64 g | C(\C=C(\C)/CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C17H22O3
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.84ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(4-neryloxybenzoylaminomethyl)pyrrolidine | 0.69 g, 30% | C(C)N1C(CCC1)CNC(C1=CC=C(C=C1)OC\C=C(\C)/CCC=C(C)C)=O | C24H36N2O2
